US06703504B2
Synthesis of Ethyl 3,3-bis-(3-Methoxyphenyl)-3-hydroxypropionate
A 2000 mL three-necked, round-bottomed flask equipped with a magnetic stirring bar is the reaction vessel. The flask is furnished with, at one neck, a dry-ice cooled condenser with an oil bubbler on the vent, and at another neck a rubber septum with a bored hole connected with a length of a polyethylene tubing attaching it to an ammonia cylinder. The centre neck serves to charge the components and is temporarily plugged with a stopper. The interior of the flask is thoroughly flushed with nitrogen and the flask is immersed in an acetone-dry ice bath. Ammonia flow is passed into the flask until ca 500 mL of liquid is condensed, whereupon the flask is removed from the cooling bath. 2.84 g (0.41 gat) of lithium wire is cut into approximately 1 cm pieces and kept under hexanes. A small piece of this lithium is dropped into the flask, creating an intense ink-blue colour. Ca. 0.2 g of ferric nitrate nonohydrate is added. After the blue color is discharged, the rest of the lithium is added, piece by piece, blotting each piece with filter paper before the addition, and waiting after each addition until the transient blue color disappears. When addition is complete a light grey suspension is obtained. At this point, 36.1 g (0.41 mole) of ethyl acetate are added in a single portion via a syringe or dropping funnel. A dark solution is formed immediately. The solution mixture is stirred for about two minutes, quickly followed by addition of 49.6 g (0.205 mole) of 3,3′-dimethoxybenzophenone as a solution in 100 mL of diethyl ether. The reaction mixture is stirred for 30 minutes, then the reaction is quenched by adding 22 g (0.41 mole) of ammonium chloride. Additionally, 250 mL of ether are added and ammonia is allowed to evaporate, either on its own (overnight) or by gentle warming in a room temperature water bath. Water (150 mL) is added and the aqueous and ethereal phases are separated. The aqueous phase is further extracted twice with 100 mL portions of ether. The ethereal layers are all combined and washed with saturated brine. The ether is removed on a rotary evaporator. Ca. 68 g of brown, partially crystallizing, oil is obtained. The oil is subjected to distillation with steam, which removes some ethyl acetoacetate by-product. The remaing contents are cooled and the excess water carefully decanted. The solid residue is dissolved in ca. 200 mL of boiling ethanol, cooled, seeded (crystallizes slowly), and further cooled in an ice bath. The crystalline product is isolated by filtration, washed with a minimum of cold ethanol and dried in vacuum at 50° C. The yield is 69%, 47 g of beige product are obtained. 1H NMR (CDCl3): δ 7.3-6.7 (m, ArH, 8H), 5.1 (s, OH, 1H), 4.1 (q, CH2—CH3, 2H), 3.75 (s, OCH3, 6H), 3.25 (s, CH2CO, 2H), 1.15 (t, CH2CH3, 3H).

reactant | polyethylene | C(C[*:2])[*:1]
reactant | ammonia | N | H3N
reactant | ethyl acetate | 0.41 mole, 36.1 g | C(C)(=O)OCC | C4H8O2
reactant | 3,3′-dimethoxybenzophenone | 0.205 mole, 49.6 g | COC=1C=C(C(=O)C2=CC(=CC=C2)OC)C=CC1 | C15H14O3
reactant | ammonium chloride | 0.41 mole, 22 g | [Cl-].[NH4+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ether | 250 mL | CCOCC | C4H10O
product | Ethyl 3,3-bis-(3-Methoxyphenyl)-3-hydroxypropionate | 47 g, yield is 69% | COC=1C=C(C=CC1)C(CC(=O)OCC)(O)C1=CC(=CC=C1)OC | C19H22O5
